US07157464B2
Synthesis of 2-(5-Amino-3-methylsulfanyl-[1,2,4]triazol-1-yl)-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone
5-Methylsulfanyl-2H-[1,2,4]triazol-3-ylamine (0.216 g, 1.7 mmol) was taken in dry DMF (15 ml) and dry potassium carbonate (800 mg) and KI (20 mg) was added to it and the reaction mixture stirred at room temperature for 1 h under nitrogen. 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone (500 mg, 1.8 mmol) in DMF (5 ml) was then added to the mixture through a syringe. The reaction was then heated at 140° C. for 14 h cooled and then quenched with water and extracted with ethyl acetate. Drying of the organic layer with Na2SO4 followed by concentration afforded crude product that was purified by column chromatography (CHCl3/MeOH): 1H NMR (300 MHz, DMSO-d6): δ 7.24 (d, 2H), 6.98 (d, 2H), 6.24 (s, 2H), 4.84 (s, 2H), 3.57 (m, 4H), 3.21 (m, 2H), 3.13 (m, 2H), 2.37 (s, 3H).

reactant | 5-Methylsulfanyl-2H-[1,2,4]triazol-3-ylamine | 1.7 mmol, 0.216 g | CSC=1N=C(NN1)N | C3H6N4S
reactant | potassium carbonate | 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | 1.8 mmol, 500 mg | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(5-Amino-3-methylsulfanyl-[1,2,4]triazol-1-yl)-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | NC1=NC(=NN1CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)SC | C15H19ClN6OS
